US05232948
A solution of ethyl 3,5-dihydroxyphenylacetate (4.0 g, 20.39 mmol), benzyl bromide (4.85 ml, 6.97 g, 40.77 mmol, 2 eq) and 5.64 g (40.77 mmol, 2 eq) of K2CO3 in 100 ml of acetone is refluxed overnight. The mixture is concentrated in vacuo, then partitioned between EtOAc and H2O. The organics are dried (MgSO4) and concentrated in vacuo. This is then passed through a flash silica gel column that is slurry packed with hexanes and eluted with 10% EtOAc in hexanes. Concentration of desired fractions gives ethyl 3,5-dibenzyloxyphenylacetate which is confirmed by NMR and used directly in the next step.

reactant | ethyl 3,5-dihydroxyphenylacetate | 20.39 mmol, 4.0 g | OC=1C=C(C=C(C1)O)CC(=O)OCC | C10H12O4
reactant | benzyl bromide | 40.77 mmol, 4.85 ml, 6.97 g, 2 eq | C(C1=CC=CC=C1)Br | C7H7Br
reactant | K2CO3 | 40.77 mmol, 5.64 g, 2 eq | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | ethyl 3,5-dibenzyloxyphenylacetate | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)OCC1=CC=CC=C1)CC(=O)OCC | C24H24O4
